US05214038
N-(3-Fluoropyridin-4-yl)-N-(3-methyl-1H-indol-1-yl)-2-aminoethanol
To N-(3-fluoro-4-pyridinyl)-N-(3-methyl-1H-indol-1-yl)glycine ethyl ester (5.0 g) in 100 ml of tetrahydrofuran cooled to ice bath temperature was added lithium aluminum hydride (1M solution in tetrahydrofuran, 30 ml) via syringe. The reaction was stirred for 0.5 hour. The mixture was quenched with NH4Cl and extracted three times with ethyl acetate. The organics were combined, washed with sat. NaCl and dried (MgSO4). After filtering, the solvent was evaporated to yield a solid (3.9 g) which was eluted with 50% ethyl acetate/dichloromethane on a silica gel column via high pressure liquid chromatography (HPLC). The desired fractions were evaporated to yield 3.7 g of a solid, m.p. 123°-125° C.

reactant | N-(3-fluoro-4-pyridinyl)-N-(3-methyl-1H-indol-1-yl)glycine ethyl ester | 5.0 g | C(C)OC(CN(N1C=C(C2=CC=CC=C12)C)C1=C(C=NC=C1)F)=O | C18H18FN3O2
reactant | lithium aluminum hydride | 1M, 30 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(3-Fluoropyridin-4-yl)-N-(3-methyl-1H-indol-1-yl)-2-aminoethanol | 3.9 g | FC=1C=NC=CC1N(CCO)N1C=C(C2=CC=CC=C12)C | C16H16FN3O
